US09145391B2
A suspension of 6-bromo-4-nitro-N-[4-(trifluoromethyl)pyridin-2-yl]pyridin-2-amine (586 mg, 1.614 mmol) and iron (361 mg, 6.46 mmol) in acetic acid (7 mL) was heated to 50° C. for 1 hour. The reaction mixture was partitioned between ethyl acetate (70 mL) and water (70 mL). The aqueous layer was further extracted with ethyl acetate (70 mL), and the combined organic layers were washed with water (70 mL), saturated aqueous sodium bicarbonate solution (2×70 mL), brine (50 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (10-60% ethyl acetate/hexanes) to afford 6-bromo-N2-[4-(trifluoromethyl)pyridin-2-yl]pyridine-2,4-diamine. MS ESI calcd. for C11H9BrF3N4 [M+H]+ 333 and 335. found 333 and 335. 1H NMR (500 MHz, DMSO-d6) δ 11.08 (s, 1H), 8.63 (s, 1H), 8.59 (d, J=5.4 Hz, 1H), 7.85 (s, 1H), 7.83-7.76 (m, 2H), 7.48-7.42 (m, 1H), 7.37-7.32 (m, 1H).

reactant | 6-bromo-4-nitro-N-[4-(trifluoromethyl)pyridin-2-yl]pyridin-2-amine | 1.614 mmol, 586 mg | BrC1=CC(=CC(=N1)NC1=NC=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C11H6BrF3N4O2
solvent | acetic acid | 7 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 6.46 mmol, 361 mg | [Fe] | Fe
product | 6-bromo-N2-[4-(trifluoromethyl)pyridin-2-yl]pyridine-2,4-diamine | BrC1=CC(=CC(=N1)NC1=NC=CC(=C1)C(F)(F)F)N | C11H8BrF3N4
